US04418073
g (0.04 mol) of triethylamine were added dropwise to a solution of 9.8 g (0.04 mol) of N-chlorocarbonyl-N-[1-iso-propyl-pyrazol-4-yl-oxy]-carbonyl-methylamine--which had been prepared analogously to Example 2--and 4.4 g (0.04 mol) of thiophenol in 100 ml of toluene. The mixture was subsequently stirred at room temperature for 4 hours and was then extracted twice by shaking with 25 ml of water each time. The organic phase was dried over sodium sulphate and evaporated in vacuo. The residue was subjected to incipient distillation under a high vacuum. 12 g (94% of theory) of N-phenylthiocarbonyl-N-[1-isopropyl-pyrazol-4-yl-oxy]-carbonyl-methylamine were thus obtained as a brown oil with a refractive index nD20 of 1.5662.

reactant | triethylamine | 0.04 mol | C(C)N(CC)CC | C6H15N
reactant | N-chlorocarbonyl-N-[1-iso-propyl-pyrazol-4-yl-oxy]-carbonyl-methylamine | 0.04 mol, 9.8 g | ClC(=O)N(OC=1C=NN(C1)C(C)C)C=C=O | C9H10ClN3O3
reactant | thiophenol | 0.04 mol, 4.4 g | C1(=CC=CC=C1)S | C6H6S
reactant | toluene | 100 ml | C1(=CC=CC=C1)C | C7H8
product | N-phenylthiocarbonyl-N-[1-isopropyl-pyrazol-4-yl-oxy]-carbonyl-methylamine | 12 g, 94% | C1(=CC=CC=C1)C(=S)N(OC=1C=NN(C1)C(C)C)C=C=O | C15H15N3O2S
